US09359358B2
Step 3: 6-[(cis-4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}cyclohexyl)oxy]-2-(trifluoromethyl)pyrimidine-4-carboxylic acid
{3-[4-(7-{[2-(Trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride (500.0 mg, 1.036 mmol) and 6-[(4-oxocyclohexyl)oxy]-2-(trifluoromethyl)pyrimidine-4-carboxylic acid in dry 1,2-dichloroethane (14.36 mL, 182.3 mmol) were stirred for 5 minutes and sodium triacetoxyborohydride (898 mg, 4.24 mmol) was added. The reaction mixture was stirred at 25° C. for 16 hours, at which time LCMS analysis showed mainly the two diastereomeric products. The reaction was quenched with water, neutralized with NaHCO3 and extracted with ethyl acetate and the solvent was evaporated. The residue was purified by LCMS (pH 10) and the fractions containing the second peak were combined and evaporated. 1H NMR (400 MHz, CD3OD) δ 8.90 (m, 1H), 8.83 (s, 1H), 8.55 (m, 1H), 7.75 (d, 1H), 7.51 (d, 1H), 7.15 (d, 1H), 5.78 (s, 4H), 5.23 (m, 1H), 3.50-3.70 (m, 3H), 1.40-2.40 (m, 8H). 19F NMR (376 MHz, CD3OD) δ −70.52 (s), −77.53 (s). MS (ES): 698(M+1).

reactant | {3-[4-(7-{[2-(Trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride | 1.036 mmol, 500.0 mg | Cl.Cl.C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
reactant | 6-[(4-oxocyclohexyl)oxy]-2-(trifluoromethyl)pyrimidine-4-carboxylic acid | O=C1CCC(CC1)OC1=CC(=NC(=N1)C(F)(F)F)C(=O)O | C12H11F3N2O4
reactant | 1,2-dichloroethane | 182.3 mmol, 14.36 mL | ClCCCl | C2H4Cl2
reactant | sodium triacetoxyborohydride | 4.24 mmol, 898 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 6-[(cis-4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}cyclohexyl)oxy]-2-(trifluoromethyl)pyrimidine-4-carboxylic acid | C(#N)CC1(CN(C1)[C@H]1CC[C@H](CC1)OC1=CC(=NC(=N1)C(F)(F)F)C(=O)O)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C32H38F3N9O4Si
